### PR TITLE
[Merged by Bors] - feat: continuity of primitives for parametric integrals

### PR DESCRIPTION
**Pull request by grunweg**
From the sphere eversion project and generalised by `sgouezel`.

This is used in the sphere eversion project to show that averaging of loops is continuous (which will be PRed to mathlib at a later point).

Co-authored by: @fpvandoorn (who write this code originally, I believe)

---------

### CODE REVIEW

**Comment by grunweg** [comment]
@lecopivo I'm trying out fun_prop on this lemma - I have two questions for you as the fun_prop expert:
- I'm tagging two lemmas with fun_prop; are these fine to tag?
- is the TODO within reach of `fun_prop` (i.e., replacing the "from ..." with "by fun_prop"? (If not, I'll just remove it.)

**Comment by lecopivo** [comment]
Integral is higher order function i.e. having a function as an argument. `fun_prop` theorems about higher order functions should be stated in "compositional form". So I would not mark `continuous_parametric_primitive_of_continuous` and for generality I would reformulate `continuous_parametric_intervalIntegral_of_continuous ` as 
```
theorem continuous_parametric_intervalIntegral_of_continuous
    (hF : Continuous fun p : X × ℝ ↦ F p.1 p.2) 
    {a b : X → ℝ} (ha : Continuous a) (hb : continuous b) :
    Continuous fun x ↦ ∫ t in a x..b x, F x t ∂μ
```

In the short term, it is not within the reach of `fun_prop` as it would require significant modification to the code which decomposes function into a composition of two functions. Unfortunately, it does not work as expected when it comes to higher order functions.

The best I can offer is this proof
```
theorem continuous_parametric_intervalIntegral_of_continuous {a₀ : ℝ}
    (hF : Continuous fun p : X × ℝ ↦ F p.1 p.2) {s : X → ℝ} (hs : Continuous s) :
    Continuous fun x ↦ ∫ t in a₀..s x, F x t ∂μ :=
  Continuous.comp (g:=(fun p : X × ℝ ↦ ∫ t in a₀..p.2, F p.1 t ∂μ)) (f:=fun x ↦ (x, s x))
    (by fun_prop) (by fun_prop)
```

The way `fun_prop` works now it tries to prove the continuity by decomposing the function as
```
    (fun x ↦ ∫ t in a₀..s x, F x t ∂μ)
    =
    (fun (f,b) => intervalIntegral f a₀ b μ) ∘ (fun x => (fun t => F x t, s x))
```
which is not useful.

**Comment by lecopivo** [comment]
At least I will try to think of a linter that would warn you when you tag theorem like `continuous_parametric_primitive_of_continuous` that you should formulate it in 'compositional form'. 

The issue is that for some higher order functions stating theorems in 'uncurried form' is fine. For example, `Finset.sum`
```
open BigOperators 
@[fun_prop]
theorem sum_continuous {ι} [Fintype ι] :
   Continuous fun (f : ι → ℝ) => ∑ i, f i := ...

@[fun_prop]
theorem sum_continuous' {ι} [Fintype ι] (f : X → ι → ℝ) (hf : Continuous f) :
   Continuous fun x => ∑ i, f x i := by fun_prop
```
`fun_prop` can already prove `sum_continuous'` from `sum_continuous`.

Therefore the linter can't simple check if you are working with higher order function or not.

File: Mathlib/MeasureTheory/Integral/DominatedConvergence.lean [hunk 1]
```diff
@@ -516,6 +516,44 @@ nonrec theorem _root_.MeasureTheory.Integrable.continuous_primitive (h_int : Int
   continuous_primitive (fun _ _ => h_int.intervalIntegrable) a
 #align measure_theory.integrable.continuous_primitive MeasureTheory.Integrable.continuous_primitive
 
+variable [IsLocallyFiniteMeasure μ] [LocallyCompactSpace X] {f : X → ℝ → E}
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Integral/DominatedConvergence.lean:519]: I don't understand why you would need a local compactness assumption for this theorem. Using `IsCompact.mem_uniformity_of_prod`, you should be able to get rid of this assumption (see for instance how it's done in `continuousOn_integral_bilinear_of_locally_integrable_of_compact_support`).

Comment (grunweg) [reply Mathlib/MeasureTheory/Integral/DominatedConvergence.lean:519]: I had checked that the proof as written requires it, but not tried to deeply dissect it. I'll try to remove the assumption; thanks for the pointer!

**Comment by grunweg** [comment]
I will get to this PR eventually, but have other higher-priority things to do right now. If you're reading this, help jumping in and fixing the above is welcome.

File: Mathlib/MeasureTheory/Integral/DominatedConvergence.lean (hunk 1 above)
Comment (Ruben-VandeVelde) [reply Mathlib/MeasureTheory/Integral/DominatedConvergence.lean]: I noticed `WeaklyLocallyCompactSpace` is sufficient, but I guess you wanted to drop that as well.

Comment (sgouezel) [reply Mathlib/MeasureTheory/Integral/DominatedConvergence.lean]: I've changed the proof to remove the local compactness (and also first countability). It's a complete rewrite, so it will need another reviewer to check it.

File: Mathlib/MeasureTheory/Measure/Stieltjes.lean [hunk 2]
```diff
@@ -492,3 +492,46 @@ lemma eq_of_measure_of_eq (g : StieltjesFunction) {y : ℝ}
       exact f.mono hxy
 
 end StieltjesFunction
+
+variable (μ : Measure ℝ) [IsFiniteMeasureOnCompacts μ]
+
+lemma tendsto_measure_Icc_nhdsWithin_gt (b : ℝ) :
```
Comment (loefflerd) [inline Mathlib/MeasureTheory/Measure/Stieltjes.lean:498]: Why are these lemmas in `MeasureTheory/Stieltjes`? They don't seem to involve a Stieltjes function.

File: Mathlib/MeasureTheory/Measure/Stieltjes.lean [hunk 3]
```diff
@@ -492,3 +492,46 @@ lemma eq_of_measure_of_eq (g : StieltjesFunction) {y : ℝ}
...
+    Tendsto (fun δ ↦ μ (Icc (b - δ) (b + δ))) (𝓝[>] (0 : ℝ)) (𝓝 (μ {b})) := by
+  have : {b} = ⋂ (r > 0), Icc (b - r) (b + r) := by
```
Comment (loefflerd) [inline Mathlib/MeasureTheory/Measure/Stieltjes.lean:500]: This looks like a lemma that might be of interest in its own right.

File: Mathlib/MeasureTheory/Measure/Stieltjes.lean [hunk 4]
```diff
@@ -492,3 +492,46 @@ lemma eq_of_measure_of_eq (g : StieltjesFunction) {y : ℝ}
...
+    apply Subset.antisymm
+    · simp only [gt_iff_lt, subset_iInter_iff, singleton_subset_iff, mem_Icc, tsub_le_iff_right,
+        le_add_iff_nonneg_right, and_self]
+      exact fun i hi ↦ hi.le
+    · intro x hx
+      simp only [gt_iff_lt, mem_iInter, mem_Icc, tsub_le_iff_right] at hx
+      simp only [mem_singleton_iff]
+      apply le_antisymm
+      · exact _root_.le_of_forall_pos_le_add (fun r hr ↦ (hx r hr).2)
+      · exact _root_.le_of_forall_pos_le_add (fun r hr ↦ (hx r hr).1)
```
Comment (loefflerd) [inline Mathlib/MeasureTheory/Measure/Stieltjes.lean:510]: `_root_` doesn't seem to be needed here.

File: Mathlib/MeasureTheory/Measure/Stieltjes.lean [hunk 5]
```diff
@@ -492,3 +492,46 @@ lemma eq_of_measure_of_eq (g : StieltjesFunction) {y : ℝ}
...
+  rw [this]
+  apply tendsto_measure_biInter_gt (fun r hr ↦ measurableSet_Icc)
+  · intro r s _rpos hrs
+    apply Icc_subset_Icc (by linarith) (by linarith)
+  · refine ⟨1, zero_lt_one, ?_⟩
+    exact isCompact_Icc.measure_ne_top
```
Comment (loefflerd) [inline Mathlib/MeasureTheory/Measure/Stieltjes.lean:516]: why not golf to `exact ⟨1, zero_lt_one, isCompact_Icc.measure_ne_top⟩`

File: Mathlib/MeasureTheory/Measure/Stieltjes.lean [hunk 6]
```diff
@@ -492,3 +492,46 @@ lemma eq_of_measure_of_eq (g : StieltjesFunction) {y : ℝ}
...
+
+lemma tendsto_measure_Icc_nhdsWithin_ge (b : ℝ) :
+    Tendsto (fun δ ↦ μ (Icc (b - δ) (b + δ))) (𝓝[≥] (0 : ℝ)) (𝓝 (μ {b})) := by
+  have : 𝓝[≥] (0 : ℝ) = 𝓝[>] (0 : ℝ) ⊔ 𝓝[{0}] 0 := by
+    simp only [union_singleton, Ioi_insert, ← nhdsWithin_union]
```
Comment (loefflerd) [inline Mathlib/MeasureTheory/Measure/Stieltjes.lean:521]: This should definitely be a lemma in its own right - I'm surprised it isn't already (both the literal statement of the `have`, and the consequence of interest, which is that `Tendsto f (𝓝[≥] a) (𝓝 b)` iff `Tendsto f (𝓝[>] a) (𝓝 b)` and `f a = b`).

File: Mathlib/MeasureTheory/Measure/Stieltjes.lean [hunk 7]
```diff
@@ -492,3 +492,46 @@ lemma eq_of_measure_of_eq (g : StieltjesFunction) {y : ℝ}
...
+    Tendsto (fun δ ↦ μ (Icc (b - δ) (b + δ))) (𝓝 (0 : ℝ)) (𝓝 0) := by
+  have : 𝓝 (0 : ℝ) = 𝓝[≥] (0 : ℝ) ⊔ 𝓝[<] 0 := by
+    rw [← nhdsWithin_union, union_comm, Iio_union_Ici, nhdsWithin_univ]
+  have A := tendsto_measure_Icc_nhdsWithin_ge μ b
+  simp only [measure_singleton] at A
+  simp only [this, tendsto_sup, A, true_and]
+  apply tendsto_const_nhds.congr'
+  filter_upwards [self_mem_nhdsWithin] with r (hr : r < 0)
+  suffices Icc (b - r) (b + r) = ∅ by simp [this]
+  exact Icc_eq_empty (by linarith)
```
Comment (loefflerd) [inline Mathlib/MeasureTheory/Measure/Stieltjes.lean:537]: This time the `have` definitely already is in the library:
```suggestion
  rw [← nhds_left'_sup_nhds_right, tendsto_sup]
  constructor
  · apply tendsto_const_nhds.congr'
    filter_upwards [self_mem_nhdsWithin] with r (hr : r < 0)
    rw [Icc_eq_empty (by linarith), OuterMeasure.empty']
  · simpa only [measure_singleton] using tendsto_measure_Icc_nhdsWithin_ge μ b
```

**Review by loefflerd — COMMENTED** [review]
I left some detailed comments on the first file (`Stieltjes`). I've also suggested adding some explanatory comments to the big proof in `DominatedConvergence` yet – I haven't yet read the proof, but I'd prefer to read it with explanations than without!

**Comment by loefflerd** [comment]
A couple of afterthoughts:
- There seems to be some inconsistency of naming about what to call things like `𝓝[≥] (0 : ℝ)` – I've seen both `nhdsWithin_Ici` and `nhds_right` in the library. But I think `nhdsWithin_ge` is not yet in use in the library, so I suggest renaming these lemmas to one of the two existing names, to avoid adding a third synonym.)
- Might it be simpler to inline the proof of `tendsto_measure_Icc_nhdsWithin_gt` inside `tendsto_measure_Icc_nhdsWithin_ge` rather than having it as a separate lemma? It's easy to go back using `nhdsWithin_mono` if anyone does specifically need the statement for `𝓝[>]`.

File: Mathlib/MeasureTheory/Integral/DominatedConvergence.lean [hunk 8]
```diff
@@ -516,6 +517,119 @@ nonrec theorem _root_.MeasureTheory.Integrable.continuous_primitive (h_int : Int
   continuous_primitive (fun _ _ => h_int.intervalIntegrable) a
 #align measure_theory.integrable.continuous_primitive MeasureTheory.Integrable.continuous_primitive
 
+variable [IsLocallyFiniteMeasure μ] {f : X → ℝ → E}
+
+theorem continuous_parametric_primitive_of_continuous
```
[the remark this answers is not in the document]
Comment (sgouezel) [reply Mathlib/MeasureTheory/Integral/DominatedConvergence.lean:522]: I've added comments.

**Comment by grunweg** [comment]
There is more clean-up possible (to the lemmas formerly in Stieltjes, for example) - but I think this could profit from another look.
Let me be bold and say
awaiting-review

**Comment by sgouezel** [comment]
The build is still failing.

**Comment by loefflerd** [comment]
I'm setting this back to "awaiting-author" since there is a "sorry" in the code

**Comment by grunweg** [comment]
Thanks a lot, @sgouezel, for rebasing this! This was on my list, to be done after my PhD thesis (i.e. quite soon).

**Comment by sgouezel** [comment]
@semorrison. Kim, you requested my review on this one, must I have written most code in the current version. I would be happy to merge it, but it would probably be more reasonable if someone else reviewed it...

File: Mathlib/Topology/MetricSpace/Pseudo/Lemmas.lean [hunk 9]
```diff
@@ -38,6 +38,9 @@ instance : OrderTopology ℝ :=
   orderTopology_of_nhds_abs fun x => by
     simp only [nhds_basis_ball.eq_biInf, ball, Real.dist_eq, abs_sub_comm]
 
+lemma Real.singleton_eq_inter_Ioo (b : ℝ) : {b} = ⋂ (r > 0), Icc (b - r) (b + r) := by
```
Comment (fpvandoorn) [inline Mathlib/Topology/MetricSpace/Pseudo/Lemmas.lean:41]: name does not match lemma statement

**Review by fpvandoorn — COMMENTED** [review]
I did another review

bors d+

**Comment by grunweg** [comment]
Thanks for the review! Since mathlib builds, let's bors this.
bors merge

**Comment by grunweg** [comment]
The CI error was in curl - not related to this code.
bors merge
